US05650270
N-Trichloroacetyl-N-methyl-p-aminobenzoic acid (CCl3CO-MABA)(W3).
4-(Methylamino)benzoic acid (1.00 g, 6.62 mmoL) and trichloroacetic anhydride (3.07 g, 9.94 mmoL) were refluxed in 20 mL of dry benzene for 30 min. After evaporation and flash column chromatography (ethyl acetate/hexane 3/7 v/v), the product was obtained as a white solid (1.1 g, 56%), the structure of which was confirmed by its spectral characteristics.

reactant | 4-(Methylamino)benzoic acid | 1.00 g | CNC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | trichloroacetic anhydride | 3.07 g | ClC(C(=O)OC(C(Cl)(Cl)Cl)=O)(Cl)Cl | C4Cl6O3
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | N-Trichloroacetyl-N-methyl-p-aminobenzoic acid | 1.1 g, 56% | ClC(C(=O)N(C1=CC=C(C(=O)O)C=C1)C)(Cl)Cl | C10H8Cl3NO3
